US07582773B2
Step 5: Synthesis of [4-(1-Benzyl-3-methyl-2-phenyl-1H-indol-4-yl)-phenoxy]-acetonitrile.
The desired product was prepared using a procedure similar to step 5 of example 3. Thus, 4-(1-benzyl-3-methyl-2-phenyl-1H-indol-4-yl)-phenol (0.260 g, 0.668 mmol) was reacted with K2CO3 (0.111 g, 0.802 mmol) and bromoacetonitrile (0.096 g, 0.802 mmol) in acetone (5 ml) to give the product (0.271 g, 0.633 mmol, 95%) as a viscous oil. 1H NMR (DMSO-d6) δ 1.72 (s, 3H), 5.22 (s, 2H), 5.33 (s, 2H), 6.85-6.89 (m, 3H), 7.11-7.14 (m, 3H), 7.17 (t, J=7.2 Hz, 1H), 7.22 (t, J=7.0 Hz, 2H), 7.33-7.35 (m, 3H), 7.39-7.47 (m, 5H); [ESI(+)], m/z 429 (M+H)+.

reactant | 4-(1-benzyl-3-methyl-2-phenyl-1H-indol-4-yl)-phenol | 0.668 mmol, 0.260 g | C(C1=CC=CC=C1)N1C(=C(C2=C(C=CC=C12)C1=CC=C(C=C1)O)C)C1=CC=CC=C1 | C28H23NO
reactant | K2CO3 | 0.802 mmol, 0.111 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 0.802 mmol, 0.096 g | BrCC#N | C2H2BrN
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | [4-(1-Benzyl-3-methyl-2-phenyl-1H-indol-4-yl)-phenoxy]-acetonitrile | C(C1=CC=CC=C1)N1C(=C(C2=C(C=CC=C12)C1=CC=C(OCC#N)C=C1)C)C1=CC=CC=C1 | C30H24N2O
